Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Macrodantin / Aldactazide
 
Attending: ___
 
Chief Complaint:
hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with history of HTN, PCKD s/p kidney tx ___ for polycystic 
kidney disease, osteoporosis, admission ___ year ago for E.coli 
UTI here and recent admit in ___ for same now presents with 
feeling unwell and Cr of 1.6 and hyponatremia to 124. 

On ___ was going on vacation to ___ and drank a large 
volume of water in preparation for possible altitude sickness. 
Felt malaised so drank more, in total pt estimates she took in > 
1 gallon water. Presented to ___ in ___ with c/o malaise with 
b/l subcostal discomfort and HoNa to 121 and found to have 
asymptomatic bacteruria which was treated with CTX. She was 
placed on 2.5L fluid restriction and discharged with Na of 128. 
On return continued to have rib discomfort so presented to 
___ and found to have Na of 125. Presented to 
primary nephrologist ___ MD at ___. 
CXR performed and home labetalol was discontinued at that time, 
but Na was found to be 124 so she was directly admitted for 
further management.

Her symptoms include fatigue and decrease in appetite. Denies 
headache, nausea, vomiting, changes in sensorium, photophobia or 
phonophobia. Over last few days, especially after ___ fluid 
restriction she has noticed marked decrease in urine output. 
Urine labs were taken on admission and significant for sodium 
125, Cr 2.2. INR 1.4. FeNa is <1%.
 
Past Medical History:
s/p kidney transplant in ___  
h/o thryoid nodule  
osteoporosis  
peripheral neuropathy  
h/o skin cancer  
HTN  

 
Social History:
___
Family History:
Family hx: PCKD, cancers

 
Physical Exam:
ADMISSION PE
VS:  98.4 106/70, 93, 16, 99RA
GENERAL: AOx3, Well appearing F who appears stated age. 
Comfortable, appropriate and in good humor. 
HEENT: Sclera anicteric. PERRL, EOMI. CNII-XII grossly normal.
NECK: Supple with low JVP  
CARDIAC: RRR, No MRG  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use, moving air well and 
symmetrically. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Distended but Soft, non-tender to palpation. Dullness 
to percussion over dependent areas but tympanic anteriorly. No 
HSM or tenderness.  
EXTREMITIES: Warm and well perfused, Trace ___ bilaterally to 
knees. Strength symmetric and intact in all 4 extremities.

DISCHARGE
PHYSICAL EXAMINATION:  
VS:  Tc 99.0, Tm 102 at 1300 on ___, 116/75, 88, 18, 97%RA 
I/Os: 24h 1000/2415, 8h 240/875
GENERAL: AOx3, Well appearing F who appears stated age. 
Comfortable, appropriate and in good humor. 
HEENT: Sclera anicteric. PERRL, EOMI. CNII-XII grossly normal.
NECK: Supple with low JVP  
CARDIAC: RRR, No MRG, No pulsatile midline abdominal mass, no 
austuclable abdominal bruits
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use, moving air well and 
symmetrically. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Distended but Soft, non-tender to palpation. Dullness 
to percussion over dependent areas but tympanic anteriorly. No 
HSM or tenderness.  No CVA tenderness. No tenderness at graft 
site on left. Denies bony pain.
EXTREMITIES: Warm and well perfused, Trace ___ bilaterally to 
knees. Strength symmetric and intact in all 4 extremities. No 
changes in sensation in lower extremities.

 
Pertinent Results:
ADMISSION LABS
___ 12:50PM BLOOD WBC-8.1# RBC-3.24* Hgb-9.9* Hct-29.1* 
MCV-90 MCH-30.6 MCHC-34.1 RDW-14.9 Plt ___
___ 12:50PM BLOOD ___ PTT-33.3 ___
___ 12:50PM BLOOD Glucose-120* UreaN-33* Creat-2.2* Na-125* 
K-5.1 Cl-89* HCO3-24 AnGap-17
___ 12:50PM BLOOD Calcium-9.0 Phos-3.7 Mg-1.5*
___ 12:50PM BLOOD Osmolal-268*
___ 06:49AM BLOOD Cortsol-27.7*
___ 07:45AM BLOOD calTIBC-155* Ferritn-948* TRF-119*
___ 06:49AM BLOOD PEP-AWAITING F IgG-636* IgA-51* IgM-222 
IFE-PND
___ 06:49AM BLOOD tacroFK-7.6

DISCHARGE LABS
___ 07:10AM BLOOD WBC-7.3 RBC-2.90* Hgb-8.8* Hct-26.3* 
MCV-91 MCH-30.5 MCHC-33.5 RDW-14.7 Plt ___
___ 01:58PM BLOOD Creat-1.4* Na-127* K-4.7 Cl-93*
___ 07:45AM BLOOD ALT-18 AST-19 AlkPhos-454* TotBili-0.4
___ 07:10AM BLOOD Calcium-8.7 Phos-2.4* Mg-1.5*
___ 07:10AM BLOOD Osmolal-266*

Renal transplant U/S ___: No evidence of obstruction or 
vascular compromise.

RUQ U/S ___: 1. Multicystic liver and left kidney.  Status 
post right nephrectomy. 2. No cholelithiasis or biliary ductal 
dilatation. 

 
Brief Hospital Course:
HOSPITAL COURSE

___ F with history of HTN, PCKD s/p kidney tx ___ for polycystic 
kidney disease, osteoporosis, admission ___ year ago for E.coli 
UTI here and recent admit in ___ for same now presents with 
feeling unwell and Cr of 1.6 and hyponatremia to 124. Urine 
lytes, relative hypotension and weight loss were consistent with 
a pre-renal etiology, likely from decreased PO intake. Urine 
osmolality also decreased as patient was rehydrated, so etiology 
of hyponatremia was thought to be at least partially 
hypovolemic. Creatinine and sodium recovered with hydration, 
although sodium remained 127 on day of discharge. Pt spiked to 
102 on ___ associated with back pain. She was initially started 
on cipro for UTI but transitioned to cefpodoxime when 
sensitivities were obtained from OSH. Day one of cefpodoxime was 
___ to continue for ___CTIVE ISSUES
# UTI: On ___ developed back pain and fever to 102. Given 
similar quality to previous episodes of UTI  this was considered 
likely to be incomplete treatment of a previous UTI at ___. 
OSH records were obtained showing organism that was resistant to 
cipro so she was started on cefpodoxime for ___: On admission FeNa <1%, patient's baseline BP lower and 
per patient decreased UO over few days so etiology ___ likely 
prerenal likely from fluid restriction at OSH. However, given 
previous improvment of Na with fluid restriction in ___ were 
wary of SIADH complicating hydration. Continued to have 
improvmeent in creatinine and sodium with hydration. On 
discharge creatinine 1.4.

# Hyponatremia: Likely hypovolemic hyponatremia given poor urine 
output and lower blood pressure. However, on admission urine 
osmolality was 418 and Na had recovered in ___ with fluid 
restriction, so possible component of euvolemic HoNa from ___. 
However in prescence of vague malaise and anorexia (which is 
likely from HoNa itself) did r/o hypocortisolism or thyroid 
disease. Sodium inconsistently recovered and at discharge was 
127.

INACTIVE ISSUES
# Renal Tx: Recieved in ___ for PCKD.  No current pain over 
site of graft. No signs of intrinsic renal dysfunction to 
suggest rejection so continue current immunosuppression.
# Anemia: HgB 9.4 currently. Unclear etiology, but last got EPO 
a few months ago. Possibly from CKD despite transplant. Continue 
home iron. 
# Osteoporosis: cont VitD/calcium at home dose

TRANSITIONAL ISSUES
f/u for continued downtrending of creatinine/sodium
f/u BCx from ___
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Tacrolimus 2 mg PO Q12H 
2. Azathioprine 125 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Calcium Carbonate 1000 mg PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Atorvastatin 10 mg PO HS 

 
Discharge Medications:
1. Atorvastatin 10 mg PO HS 
2. Azathioprine 125 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Calcium Carbonate 1000 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Tacrolimus 2 mg PO Q12H 
7. Vitamin D 400 UNIT PO DAILY 
8. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*25 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hyponatremia

Secondary:
Polycystic kidney disease s/p renal transplant.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care.  You were admitted 
because the sodium level in your blood was low.  We found that 
you were dehydrated and likely had an incompletely treated 
urinary tract infection.  Your sodium is gradually improving, 
although it continues to remain low.  We feel that it will 
gradually improve with time, but be sure to follow up with your 
nephrologist.
 
Followup Instructions:
___